2168-03-24 05:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Afib to 160s, given 5mg IV metoprolol, subsequent [**5-4**] sec pauses,
   asymptomatic. Also with occasional NSVT. Converted to sinus at 9pm. Per
   EP, avoid nodal agents; if patient resumes RVR and is unstable,
   cardiovert.
   - Ortho c/s: NWB, bedrest.
   S: No CP, palpitations, lightheadedness, SOB, confusion (aware of being
   recently confused).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Heparin Sodium - [**2168-3-24**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-24**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 35.8
C (96.4
   HR: 78 (70 - 157) bpm
   BP: 123/58(73) {91/35(52) - 145/67(84)} mmHg
   RR: 16 (16 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    726 mL
                                                                     38 mL
   PO:
                                                                    150 mL
             TF:
   IVF:
                                                                    576 mL
                                                                     38 mL
   Blood products:
   Total out:
                                                                    210 mL
                                                                    145 mL
   Urine:
                                                                    210 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    516 mL
                                                                   -107 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   GENERAL: A+Ox3, NAD, appropriate
   HEENT: NCAT. Sclerae anicteric. Poor dentition.
   NECK: Supple with JVP of 10 cm.
   CARDIAC: RRR no murmurs, rubs, gallops
   LUNGS: mild left bibasilar crackles, otherwise clear
   ABDOMEN: Soft, NTND. NABS.
   EXTREMITIES: No edema, 2+ DP pulses.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   163 K/uL
   9.0 g/dL
   99 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.2 mEq/L
   33 mg/dL
   107 mEq/L
   143 mEq/L
   26.9 %
   8.3 K/uL
        [image002.jpg]
                             [**2168-3-24**]  03:28 AM
   WBC
   8.3
   Hct
   26.9
   Plt
   163
   Cr
   0.5
   Glucose
   99
   Other labs: PT / PTT / INR:14.1/32.0/1.2, Ca++:8.2 mg/dL, Mg++:2.6
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   78yo F with no past medical history transferred from OSH after having
   NSTEMI in setting of hip fracture from mechanical fall.
   NSTEMI: patient with elevated troponin 1.99 at OSH and .27 here. She
   had t wave inversions throughout that are possibly post ischemic. They
   are diffuse, however, so unlocalizable, it is unclear if they are
   acute. This patient may be a good candidate for viability study if cath
   shows diffuse disease. Her EF is 20% so appears that some of teh
   akinesis on echo may be old.
   - Aspirin 325, plavix 75 (had plavix at OSH since [**3-21**])
   - Metoprolo IV as needed for HR
   - heparin IV
   - monitor on telemetry
   - EKG in AM
   - ECHO
   - ACE when BP tolerates
   Atrial Fibrillation/Pauses: appears that this is since this AM. RVR as
   fast as 160s. on the floor she was given 5mg iv lopressor and had 5s
   pause, appeared to be conversion pause. has not had this on floor
   despite more metoprolol. In CCU, about 30 minutes after metoprolol
   patient had >6s pause, asymptomatic
   - Metoprolol IV for HR <130s
   - hold off on rhythm control for now
   - on heparin for anticoagulation
   - consider EP consult if pauses continue
   Mental Status Changes: Patient was A+OX3 prior to getting dilaudid last
   night so suspect medication effect. patient now mentating better than
   on floor, but still foggy
   - head CT negative
   - use narcotics with caution
   Fever: to 102 on arrival to floor. patient had cough, but per neice it
   is chronic [**2-1**] smoking. denies abd pain, urinary complaints. may be
   related to hip, atelectasis
   - blood cultures
   - UA and culture
   - CXR: no infiltrate
   Systolic CHF: acuity is unclear. [**Name2 (NI) **] of 20% is low for a first NSTEMI.
   does not appear volume overloaded
   - will recheck ECHO here
   Left hip fracture: At OSH orthopedist recommended internal fixation
   however will need cardiac stabilization first and then will likely need
   repeat orthopedic evaluation and intervention here.
   - Will manage pain
   - heparin IV for DVT ppx
   - Monitor pulses, edema, hct to ensure no bleed into joint
   - orthopedics consult appreciated
   PPx: heparin gtt, bowel reg
   FEN: NPO for cardiac cath; replete lytes prn
   ACCESS: PIV x 2
   CODE: DNR/DNI with the exception of during procedures (surgery or
   cardiac catheterization)
   CONTACT: [**Name (NI) 4978**] (husband)
   DIspo CCU
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2168-3-23**] 03:30 PM
   20 Gauge - [**2168-3-23**] 07:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI, okay to reverse for procedures
   Disposition:ICU
   TITLE:
   Chief Complaint:
   24 Hour Events:
   - Afib to 160s, given 5mg IV metoprolol, subsequent [**5-4**] sec pauses,
   asymptomatic. Also with occasional NSVT. Converted to sinus at 9pm. Per
   EP, avoid nodal agents; if patient resumes RVR and is unstable,
   cardiovert.
   - Ortho c/s: NWB, bedrest.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Heparin Sodium - [**2168-3-24**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-24**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 35.8
C (96.4
   HR: 78 (70 - 157) bpm
   BP: 123/58(73) {91/35(52) - 145/67(84)} mmHg
   RR: 16 (16 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    726 mL
                                                                     38 mL
   PO:
                                                                    150 mL
             TF:
   IVF:
                                                                    576 mL
                                                                     38 mL
   Blood products:
   Total out:
                                                                    210 mL
                                                                    145 mL
   Urine:
                                                                    210 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    516 mL
                                                                   -107 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   GENERAL: Mental status much improved.  Answers questions
   appropriately.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 10 cm.
   CARDIAC: tachycardic, irregular. no murmurs, rubs.
   LUNGS: mild bibasilar crackles, otherwise clear
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+  DP 2+ PT 2+
   Left: Carotid 2+ DP 2+ PT 2+
   Labs / Radiology
   163 K/uL
   9.0 g/dL
   99 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.2 mEq/L
   33 mg/dL
   107 mEq/L
   143 mEq/L
   26.9 %
   8.3 K/uL
        [image002.jpg]
                             [**2168-3-24**]  03:28 AM
   WBC
   8.3
   Hct
   26.9
   Plt
   163
   Cr
   0.5
   Glucose
   99
   Other labs: PT / PTT / INR:14.1/32.0/1.2, Ca++:8.2 mg/dL, Mg++:2.6
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   78yo F with no past medical history transferred from OSH after having
   NSTEMI in setting of hip fracture from mechanical fall.
   NSTEMI: patient with elevated troponin 1.99 at OSH and .27 here. She
   had t wave inversions throughout that are possibly post ischemic. They
   are diffuse, however, so unlocalizable, it is unclear if they are
   acute. This patient may be a good candidate for viability study if cath
   shows diffuse disease. Her EF is 20% so appears that some of teh
   akinesis on echo may be old.
   - Aspirin 325, plavix 75 (had plavix at OSH since [**3-21**])
   - heparin IV
   - monitor on telemetry
   - EKG in AM
   - ECHO
   - ACE when BP tolerates
   Atrial Fibrillation: Afib with RVR last night and had pauses after
   metoprolol.  Converted to sinus spontaneously.  Favor rhythm control to
   prevent future conversion pauses.
   - start amiodarone
   - on heparin for anticoagulation, will need long term anticoag
   - avoid nodal agents
   Anemia: Hct 26 down from 32.  Need to stabilize before cath.
   - repeat hct now before cath
   - transfuse for hct 25
   - guaiac stools
   Mental Status Changes: From meds.  Resolved.
   - use narcotics with caution
   Fever: to 102 on arrival to floor.  Unclear cause.
   - f/u blood cultures
   - f.u UA and culture
   - CXR: no infiltrate
   Systolic CHF: Echo today.  Reported h/o EF 20%.  Currently seems
   euvolemic.
   - will recheck ECHO here
   Left hip fracture: At OSH orthopedist recommended internal fixation
   however will need cardiac stabilization first and then will likely need
   repeat orthopedic evaluation and intervention here.
   - Will manage pain
   - heparin IV for DVT ppx
   - Monitor pulses, edema, hct to ensure no bleed into joint
   - orthopedics consult appreciated
   PPx: heparin gtt, bowel reg
   FEN: NPO for cardiac cath; replete lytes prn
   ACCESS: PIV x 2
   CODE: DNR/DNI with the exception of during procedures (surgery or
   cardiac catheterization)
   CONTACT: [**Name (NI) 4978**] (husband)
   DIspo CCU
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2168-3-23**] 03:30 PM
   20 Gauge - [**2168-3-23**] 07:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI, okay to reverse for procedures
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). CCU team.
   I would add the following remarks:
   Above discussed extensively with patient. I have discussed this plan
   with Dr(s). CCU team. Progress reviewed extensively during family
   meeting.
   Total time spent on patient care: 40 minutes of critical care time.
   Additional comments:
   Feels markedly improved today.  IN sinus rhythm --> no further
   conversion pauses since last PM.  Echo - my preliminary review.  LVEF
   ~35-40% with hypokinesis of mid- and distal anterior and anteroseptal
   segments and apex.  No thrombus.
   Plan:
   1. Coronary angiography today, no DES.  If acute-appearing lesions -->
   prefer POBA or bare-metal stent.  Chronic-appearing diffuse lesions
   probably do not warrant PCI at this time, and may be readdressed later
   if ischemic symptoms are present.
   2. Commence rhythm control with amiodarone
   3. If further SYMPTOMATIC bradycardia, will consider PPM placement
   4. Long-term warfarin anticoagultion given high CHADS 2 risk score
   ICU care for heart failure, +/- ACS
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3494**], MD
   on:[**2168-3-24**] 13:04 ------

2168-03-25 06:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CARDIAC CATH - At [**2168-3-24**] 02:30 PM
   -hct stable, afebrile
   -clean cath
   -ortho to take to the OR in am for trochanteric nail and then back to
   CCU
   -started amio for rhythm control
   -hyperthyroid by labs, added on thyroid antibodies, endocrine to
   followup
   -metoprolol for hyperthyroid and symptom control
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-25**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.5
   HR: 82 (73 - 101) bpm
   BP: 125/63(79) {110/43(61) - 152/64(79)} mmHg
   RR: 23 (17 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    680 mL
                                                                     61 mL
   PO:
                                                                    320 mL
             TF:
   IVF:
                                                                    360 mL
                                                                     61 mL
   Blood products:
   Total out:
                                                                  1,210 mL
                                                                    220 mL
   Urine:
                                                                  1,210 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -530 mL
                                                                   -159 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   GENERAL: A+Ox3, NAD, appropriate
   HEENT: NCAT. Sclerae anicteric. Poor dentition.
   NECK: Supple with JVP of 10 cm.
   CARDIAC: RRR no murmurs, rubs, gallops
   LUNGS: mild left bibasilar crackles, otherwise clear
   ABDOMEN: Soft, NTND. NABS.
   EXTREMITIES: No edema, 2+ DP pulses.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   209 K/uL
   10.2 g/dL
   107 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.4 mEq/L
   26 mg/dL
   107 mEq/L
   144 mEq/L
   29.2 %
   7.3 K/uL
        [image002.jpg]
                             [**2168-3-24**]  03:28 AM
                             [**2168-3-24**]  09:07 AM
                             [**2168-3-24**]  06:02 PM
                             [**2168-3-25**]  04:24 AM
   WBC
   8.3
   7.3
   Hct
   26.9
   27.8
   27.5
   29.2
   Plt
   163
   209
   Cr
   0.5
   0.4
   Glucose
   99
   107
   Other labs: PT / PTT / INR:14.1/32.0/1.2, ALT / AST:16/28, Alk Phos / T
   Bili:74/0.6, Albumin:3.1 g/dL, LDH:302 IU/L, Ca++:8.4 mg/dL, Mg++:2.4
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   78yo F with no past medical history transferred from OSH after having
   NSTEMI in setting of hip fracture from mechanical fall.
   Left hip fracture: patient getting ORIF of left hip today
   - Will manage pain, cautious with narcotics
   - sub q hep for dvt prophylaxis
   - Monitor pulses, edema, hct to ensure no bleed into joint
   - orthopedics recs
   NSTEMI: elevated troponin, had cardiac catherization showing mild
   nonobstructive disease. Possibly autolysed lesion, or had coronary
   spasm peri-fall. Patient may have had takutsubo with hip fracture. EF
   45%
   - Aspirin decreased from 325mg to 81mg since no stent
   - can discontinue plavix 75
   - daily EKG
   -continue metoprolol at increased dose of 25mg PO BID
   - ECHO showing EF 40%, Mild left regional regional systolic dysfunction
   with distal anterior, septal and apical hypokinesis c/w CAD. Mild
   mitral regurgitation
   Atrial Fibrillation/Pauses: appears that this is since [**3-24**]. RVR as
   fast as 160s. on the floor she was given 5mg iv lopressor and had 5s
   pause, appeared to be conversion pause. In CCU, about 30 minutes after
   metoprolol patient had >6s pause, asymptomatic but has been in sinus
   since.
   -continue metoprolol for rate control
   -initially started on amiodarone for rhythm control but found to be
   hyperthyroid so held
   -start coumadin for anticoagulation
   -need [**Doctor Last Name 2257**] of heart upon discharge
   -card follow up on d/c
   Hyperthyroid- by labs prior to starting
   -f/u thyroid antibodies
   -endocrine follow up as outpatient
   Mental Status Changes: Patient was A+OX3 prior to getting dilaudid on
   admissiont so suspect medication effect.
   -avoid sedatvies
   - head CT negative
   - use narcotics with caution
   Fever: to 102 on arrival to floor. patient had cough, but per neice it
   is chronic [**2-1**] smoking. denies abd pain, urinary complaints. may be
   related to hip, atelectasis
   - blood cultures
   - UA and culture
   - CXR: no infiltrate
   Systolic CHF: acuity is unclear. [**Name2 (NI) **] of 20% is low for a first NSTEMI.
   Repeat echo shows improvement of EF to 40% which may represent
   Takutsubo
   -monitor I/Os, daily weights
   PPx: subqhep, coumadin,  bowel reg
   FEN:  cardiac diet, replete lytes prn
   ACCESS: PIV x 2
   CODE: DNR/DNI with the exception of during procedures (surgery or
   cardiac catheterization)
   CONTACT: [**Name (NI) 4978**] (husband)
   DIspo CCU
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2168-3-23**] 03:30 PM
   20 Gauge - [**2168-3-23**] 07:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI, okay to reverse for procedures
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 304**].
   I would add the following remarks:
   Above discussed extensively with patient. I have discussed this plan
   with Dr(s). CCU team.
   Total time spent on patient care: 30 minutes of critical care time.
   Additional comments:
   S/p ORIF of the hip now - did well
   NO further AF
   Cath - diffuse multivessel disease, no hemodynamically-significant
   stenoses
   Imp: likely embolic coronary event with endogenous lysis vs. resolving
   stress cardiomyopathy ("Takotsubo")
   Plan:
   1. ASA, Coumadin
   2. beta blockade
   3. gentle diuresis
   4. ICU care for now - mental status and recent acute coronary event
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3494**], MD
   on:[**2168-3-25**] 14:07 ------